US05047411
10% Palladium on carbon (3.0 g) was added to a mixture of 2-[2-(3-benzyloxy-4-nitrophenyl)ethyl]-3-methylimidazo[1,2-a]pyridine (6.5 g) in a mixture of methanol and tetrahydrofuran, and the mixture was subjected to catalytic reduction under. atmospheric pressure for 3 hours at ambient temperature. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was purified by a column chromatography on silica gel, and eluted with a mixture of chloroform and methanol (9:1, V/V). The eluted fast fractions containing the desired product were collected and evaporated in vacuo to give 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3-methylimidazo[1,2-a]pyridine (1.37 g).

reactant | 2-[2-(3-benzyloxy-4-nitrophenyl)ethyl]-3-methylimidazo[1,2-a]pyridine | 6.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CCC=1N=C2N(C=CC=C2)C1C | C23H21N3O3
catalyst | Palladium on carbon | 3.0 g | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3-methylimidazo[1,2-a]pyridine | 1.37 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC=C2)C1C)O | C16H17N3O
